US08114531B2
a) 6-(1-Naphthyl)-2-naphthol
913 mg (3 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to a suspension of 111.5 g (500 mmol) of 6-bromo-2-naphthol, 111.8 g (650 mmol) of naphthaleneboronic acid and 224.1 g (1150 mmol) of tripotassium phosphate in a mixture of 1000 ml of toluene, 200 ml of dioxane and 1000 ml of water, and the mixture is heated under reflux for 18 h. After cooling, 200 ml of 2 N hydrochloric acid are added, and the organic phase is separated off, washed three times with 500 ml of 1 N hydrochloric acid, once with 500 ml of saturated sodium chloride solution, filtered through silica gel and evaporated to dryness in vacuo. The residue is recrystallised from 150 ml of toluene. Yield: 113.3 g (419 mmol), 83.8% of theory; purity: 98% according to NMR.

reactant | tri-o-tolylphosphine | 3 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 6-bromo-2-naphthol | 500 mmol, 111.5 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | naphthaleneboronic acid | 650 mmol, 111.8 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | tripotassium phosphate | 1150 mmol, 224.1 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | hydrochloric acid | 2 N, 200 ml | Cl | ClH
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1000 ml | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-(1-Naphthyl)-2-naphthol | C1(=CC=CC2=CC=CC=C12)C=1C=C2C=CC(=CC2=CC1)O | C20H14O
